US08633175B2
Step 2: 4′-formyl-3′-(trifluoromethyl)-1,1′-biphenyl-3-carboxamide
4′-(1,3-Dioxolan-2-yl)-3′-(trifluoromethyl)-1,1′-biphenyl-3-carboxamide (0.177 g; 0.525 mmol) was added to a solution of HOAc (4 mL) and water (1 mL) and the mixture was stirred at 65° C. in a sealed vial for 1 h. Upon cooling, the mixture was poured into satd NaHCO3 and extracted with EtOAc (×3). Combined organics were washed (water, brine), dried over Na2SO4 and concentrated in vacuo affording the title compound, which was used without further purification. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.55 (br. s., 1H), 7.64 (t, J=7.76 Hz, 1H), 7.98 (ddd, J=7.98, 1.38, 1.16 Hz, 1H), 8.02 (ddd, J=7.76, 1.87, 1.07 Hz, 1H), 8.18-8.26 (m, 3H), 8.29 (dd, J=8.03, 1.78 Hz, 1H), 8.31 (t, J=1.69 Hz, 1H), 10.31 (q, J=1.96 Hz, 1H)

reactant | 4′-(1,3-Dioxolan-2-yl)-3′-(trifluoromethyl)-1,1′-biphenyl-3-carboxamide | 0.525 mmol, 0.177 g | O1C(OCC1)C1=C(C=C(C=C1)C1=CC(=CC=C1)C(=O)N)C(F)(F)F | C17H14F3NO3
reactant | HOAc | 4 mL | CC(=O)O | C2H4O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | water | 1 mL | O | H2O
product | 4′-formyl-3′-(trifluoromethyl)-1,1′-biphenyl-3-carboxamide | C(=O)C1=C(C=C(C=C1)C1=CC(=CC=C1)C(=O)N)C(F)(F)F | C15H10F3NO2
